US06878700B1
(2-Bromophenyl)[2-chloro-4-(E-((2-(hydroxymethyl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4fluoro-benzaldehyde, and 6-amino-1-hexanol with 2-hydroxymethylpiperidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.03 (m, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.61 (m, 1H), 7.30-7.45 (m, 4H), 7.23 (m, 1H), 7.07 (m, 1H), 4.79 (m, 2H), 4.61 (m, 2H), 4.10 (m, 1H), 1.50 (m, 6H). HRMS calculated for C21H21N1O2S1Br1Cl1: 466.0243. Observed: 466.0247.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-chloro-4fluoro-benzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 2-hydroxymethylpiperidine | OCC1NCCCC1 | C6H13NO
product | (2-Bromophenyl)[2-chloro-4-(E-((2-(hydroxymethyl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1C(CCCC1)CO)Cl | C21H21BrClNO2S
